US05006544
(E)-2,3-Dihydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methylene]-4H-1-benzopyran-4-one
A solution of potassium hydroxide (0.5 g) in methanol (5 ml) was added to a solution of 4-chromanone (0.84 g) and 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde (2 g) in methanol (25 ml) with warming, and the resulting solution was stirred at 50° for 3 h. The resultant precipitate was filtered off, washed with methanol (25 ml) and dried to give the title compound (2.6 g), m.p. 231°-233°.

reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | 4-chromanone | 0.84 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde | 2 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | (E)-2,3-Dihydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methylene]-4H-1-benzopyran-4-one | 2.6 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\1/COC2=C(C1=O)C=CC=C2 | C33H26N2O2
